US06083908
To a solution of N'-[(2R)-2-(N-((2R)-2-[N-(((9H-fluoren-9-yl)methoxy)carbonyl)-N-methylamino]-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionyl]-N-methylhydrazinecarboxylic acid tert-butyl ester (0.27 g, 0.36 mmol) in methylene chloride (2 ml) at 0° C. was added trifluoroacetic acid (2 ml) and the mixture was stirred for 90 min. Then methylene chloride (50 ml) and saturated sodium bicarbonate (5 ml) was added and the mixture was titrated with solid sodium bicarbonate until pH=7. The water layer was separated and extracted with methylene chloride (20 ml) and the combined organic layers were washed with brine (10 ml), dried (MgSO4), filtered and concentrated in vacuo to give 0.18 g (78%) of N-methyl-N-((1R)-1-(N-methyl-N-[(1R)-1-(N'-methylhydrazinocarbonyl)-2-phenylethyl]carbamoyl)-2-(2-naphthyl)ethyl)carbamic acid ((9H-fluoren-9-yl)methyl) ester as white amorphous powder.

reactant | N'-[(2R)-2-(N-((2R)-2-[N-(((9H-fluoren-9-yl)methoxy)carbonyl)-N-methylamino]-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionyl]-N-methylhydrazinecarboxylic acid tert-butyl ester | 0.36 mmol, 0.27 g | C(C)(C)(C)OC(=O)N(NC([C@@H](CC1=CC=CC=C1)N(C)C([C@@H](CC1=CC2=CC=CC=C2C=C1)N(C)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O)C | C45H48N4O6
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-methyl-N-((1R)-1-(N-methyl-N-[(1R)-1-(N'-methylhydrazinocarbonyl)-2-phenylethyl]carbamoyl)-2-(2-naphthyl)ethyl)carbamic acid ((9H-fluoren-9-yl)methyl) ester | 0.18 g, 78% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N([C@H](CC1=CC=CC=C1)C(=O)NNC)C)=O)C)=O | C40H40N4O4
